US07977331B1
To a solution of methyl 12-cyclohexyl-4-nitro-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (9.94 g, 23.6 mmol) in tetrahydrofuran (85 ml), ethanol (170 ml) and water (42.5 ml) were added ammonium chloride (6.31 g, 118 mmol) and reduced iron (6.60 g, 118 mmol), and the mixture was stirred at 100° C. for 2 hr. After filtration of the reaction solution, saturated aqueous sodium hydrogen carbonate solution was added to the filtrate, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was concentrated under reduced pressure to give a solid. The obtained solid was washed with a mixed solvent (hexane:ethyl acetate-20:1). The solid was collected by filtration to give methyl 4-amino-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (8.62 g, yield 93%).

reactant | methyl 12-cyclohexyl-4-nitro-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 23.6 mmol, 9.94 g | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4[N+](=O)[O-])C=C(C=C2)C(=O)OC | C24H24N2O5
reactant | ammonium chloride | 118 mmol, 6.31 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 85 ml | O1CCCC1 | C4H8O
solvent | ethanol | 170 ml | C(C)O | C2H6O
solvent | water | 42.5 ml | O | H2O
product | methyl 4-amino-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 8.62 g, yield 93% | NC1=CC=CC=2C3=C(C4=C(N3CCOC21)C=C(C=C4)C(=O)OC)C4CCCCC4 | C24H26N2O3
